US07842819B2
Step 1b: 4-Acetylsulfanyl-piperidine-1-carboxylic acid tert-butyl ester.
Crude 4-methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester was dissolved in 200 ml DMF, and potassium thioacetate (18.5 g, 162 mmol) was added. The mixture was stirred overnight under a nitrogen atmosphere at about 65° C. The reaction mixture solidified overnight, and after it was cooled to room temperature, 250 ml water and 250 ml TBME was added, and the mixture was stirred for 10 minutes. The layers were separated, and the aqueous layer was extracted with 200 ml TBME. The combined organic layers were washed with water (2×250 ml) and saturated aqueous NaCl solution (150 ml), dried over sodium sulfate, filtered, and evaporated to dryness (30.3 g, 94%) to give a dark-brown oil identified as the product by 1H-NMR, which was used without purification in the next step.

reactant | 4-methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C | C11H21NO5S
reactant | potassium thioacetate | 162 mmol, 18.5 g | C(C)(=S)[O-].[K+]
reactant | water | 250 ml | O | H2O
reactant | TBME | 250 ml | CC(C)(C)OC | C5H12O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 4-Acetylsulfanyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)SC(C)=O | C12H21NO3S
